US07939528B2
To a mixture of 2,2,2-trifluoro-N-[4-[(4-formylphenyl)oxy]-2-nitro-6-(trifluoromethyl)phenyl]acetamide (0.65 g, 1.54 mmol), triethyl orthoformate (0.282 mL, 1.69 mmol), and ethylene glycol (0.343 mL, 6.16 mmol) was added (butyl)4NBr3 (0.007 g, 0.015 mmol). The reaction was stirred at ambient temperature for 1 hour and then diluted with ethyl acetate. The organics were washed 1×NaHCO3, 1× brine and then dried (Na2SO4), filtered and concentrated. The residue was dissolved in ethyl acetate (5 mL) and hydrogenated over 10% Palladium on carbon (0.13 g) under an atmosphere of hydrogen for 3 hours. The catalyst was removed by filtration through Celite and the filtrate concentrated. The residue was purified by silica gel column chromatography on using a gradient of 20-40% ethyl acetate:hexanes to give 5-{[4-(1,3-dioxolan-2-yl)phenyl]oxy}-2,7-bis(trifluoromethyl)-1H-benzimidazole.

reactant | 2,2,2-trifluoro-N-[4-[(4-formylphenyl)oxy]-2-nitro-6-(trifluoromethyl)phenyl]acetamide | 1.54 mmol, 0.65 g | FC(C(=O)NC1=C(C=C(C=C1C(F)(F)F)OC1=CC=C(C=C1)C=O)[N+](=O)[O-])(F)F | C16H8F6N2O5
reactant | triethyl orthoformate | 1.69 mmol, 0.282 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | ethylene glycol | 6.16 mmol, 0.343 mL | C(CO)O | C2H6O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-{[4-(1,3-dioxolan-2-yl)phenyl]oxy}-2,7-bis(trifluoromethyl)-1H-benzimidazole | O1C(OCC1)C1=CC=C(C=C1)OC1=CC2=C(NC(=N2)C(F)(F)F)C(=C1)C(F)(F)F | C18H12F6N2O3
